US05795887
N-Isopropyl-N',N'-dimethyl-benzene-1,4-diamine
Acetone (30 mL, 408 mmol) is added to a mixture of N',N'-dimethyl-benzene-1,4-diamine (27.2 g, 200 mmol), acetic acid (glacial, 13.8 mL, 241 mmol), methanol (500 mL), and sodium cyanoborohydride in THF (1M, 440 mL, 440 mmol) and allowed to stir overnight under nitrogen. After concentrating in vacuo to a residue, the reaction mixture is partitioned between ethyl acetate and aqueous sodium carbonate. The layers are separated and the aqueous layer is extracted twice with ethyl acetate. The organic layers are combined, extracted with saturated brine, dried over anhydrous potassium carbonate, and concentrated in vacuo to afford the title compound as an oil (38.0 g, 213 mmol) of sufficient purity for the next step. 1H NMR (300 MHz, CDCl3) δ=1.18 (d, J=6.28 Hz, 6H); 2.82 (s, 6H); 3.04 (b, 1H), 3.47-3.59 (m, 1H); 6.59 (d, J=9.0 Hz, 2H); 6.73 (d, J=9.0 Hz, 2H). TLC Rf -0.3 (20:80 ethyl acetate: n-hexane).

reactant | Acetone | 408 mmol, 30 mL | CC(=O)C | C3H6O
reactant | N',N'-dimethyl-benzene-1,4-diamine | 200 mmol, 27.2 g | CN(C1=CC=C(C=C1)N)C | C8H12N2
reactant | acetic acid | 241 mmol, 13.8 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | THF | 440 mmol, 1M, 440 mL | C1CCOC1 | C4H8O
solvent | methanol | 500 mL | CO | CH4O
product | N-Isopropyl-N',N'-dimethyl-benzene-1,4-diamine | 213 mmol, 38.0 g | C(C)(C)NC1=CC=C(C=C1)N(C)C | C11H18N2
